2184-12-09 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2184-12-8**] 04:38 PM
   tunneled rt subclavian hd catheter placed outside hosp at outpt
   vascular suite in  [**Location (un) **], ma
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Levofloxacin - [**2184-12-8**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-12-8**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-12-9**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 84 (79 - 93) bpm
   BP: 128/81(92) {128/81(92) - 172/118(127)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  2,070 mL
                                                                    277 mL
   PO:
                  TF:
   IVF:
                                                                    120 mL
   Blood products:
                                                                    375 mL
                                                                    277 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,070 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///20/
   Physical Exam:
   GEN: sitting in bed, appears stated age, NAD, appears lethargic, but
   arousable and answering questions appropriately.
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, dry
   MM, OP Clear
   NECK: supple, ex JV distended, JVP to thyroid cartilage, no LAD
   chest:b/l ae +bibasilar crackles, no w/r
   heart:s1s2 rrr 4/6 systolic flow murmur throughout precordium
   abd: +well healed midline surgical scar, +PD catheter LLQ, +bs, soft,
   NT, ND, no masses.
   ext: no c/c/trace pitting edema 2+pulses.
   neuro:aaox3, cn2-12 intact, non-focal
   skin:dry, without rashes.
   Labs / Radiology
   215 K/uL
   9.1 g/dL
   71 mg/dL
   12.9 mg/dL
   20 mEq/L
   4.2 mEq/L
   66 mg/dL
   96 mEq/L
   135 mEq/L
   26.6 %
   4.9 K/uL
        [image002.jpg]
                            [**2184-12-9**]  12:01 AM
                            [**2184-12-9**]  03:34 AM
   WBC
   4.4
   4.9
   Hct
   22.7
   26.6
   Plt
   213
   215
   Cr
   12.6
   12.9
   Glucose
   80
   71
   Other labs: PT / PTT / INR:14.6/33.0/1.3, ALT / AST:17/33, Alk Phos / T
   Bili:636/1.5, Amylase / Lipase:35/41, Differential-Neuts:65.4 %,
   Lymph:23.5 %, Mono:7.9 %, Eos:2.6 %, Albumin:3.2 g/dL, LDH:267 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:8.0 mg/dL
   Assessment and Plan
   49 y.o woman with h.o HIT, HTN, HL, sarcoid, chronic pancreatitis,
   angioectasia of the GI tract, anemia, epilepsy who presents with
   fever/chills, SOB, HCT drop.
   .
   #anemia- Pt's baseline HCt appears to be 26-30. 27 ~3wks ago, currently
   16.3. Likely secondary to bleeding, could be a slow GIB given h.o
   angioectasias and guaiac +stool. Other possibilities include
   intrathoracic/abdominal bleeding given L.sided chest pain. In addition,
   pt is s/p HD tunnel line placement yesterday, possible bleeding related
   to procedure. RP bleed or rectus sheath are possibilities but appear
   unlikely at this time.
   -GI aware plan for ?scope in am.
   -q4hr HCTs for today.
   -2 large bore PIVs, HD catheter
   -active T+C
   -[**Hospital1 **] IV PPI
   -guaiac stools.
   -npo
   -if not bumping appropriately will plan to scan thorax/abd for source
   of bleeding.
   .
   #fever/chills-Likely related to infection. Possibly sources include
   HDline given recent insertion. In addition, pt is s/p recent chronic PD
   so SBP is a possibility. Other possibilities include PNA, UTI, abscess
   etc. Pt without focal lung/cxr findings. U/A negative.
   -bcx, ucx
   -trend wbc cont/fever curve
   -broad spectrum abx at this time, pending cx data with
   vanco/zosyn/levo.
   -consider removal of line if thought to be source.
   .
   #SOB-unclear etiology. Pt is sating well on RA. Possibilities include
   anemia, PE, PNA, bronchitis/ URI, sarcoid, cardiogenic causes. Pt with
   recent increase in chronic cough. CXR without infiltrate however pt s/p
   fever can consider PNA. Will have to consider PE in this pt as well.
   However, cannot be anticoagulated with heparin products.
   -consider CTA vs. V/Q scan if suspect PE, for now LENIs to r/o DVt.
   -transfuse to goal of 25
   -infectious w/u.
   -abx to cover for ?PNA/bronchitis given recent cough/sob.
   -nebs
   -consider steroids if thought to be related to sarcoid.
   .
   #L.sided back pain-unclear etiology. However, given recent HCT drop and
   without clear GI source will have to consider RP or intraabdominal
   bleed. Pt also s/p HD line placement.
   -consider imaging for inappropriate HCT bump or continued/worsening
   pain.
   -pain control
   .
   #ESRD-Pt [**Name (NI) 6474**] formerly on PD, supposed to start HD tomorrow.
   -renal recs/aware plan for HD tomorrow pm.
   -monitor lytes/vol status
   -renagel
   .
   #HTN-hold anti-htn for now given bleed. Will resume once stable.
   -on losartan, lasix, nifedipine/holding.
   .
   #epilepsy-continue home lamictal, lorazepam prn. Currently NPO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2184-12-8**] 04:38 PM
   20 Gauge - [**2184-12-8**] 04:41 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments: with patient
   Code status: Full code
   Disposition: ICU

2184-12-09 09:29:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, pulmonary hypertension, respiratory
   distress, CHF, CRF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient transfused through the night. Continues on antibiotics. Patient
   given lasix 60 mg IV; no urine output.  Hct up to 26 early this AM.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2184-12-8**] 04:38 PM
   tunneled rt subclavian hd catheter placed outside hosp at outpt
   vascular suite in  [**Location (un) **], ma
   History obtained from Patient
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Levofloxacin - [**2184-12-8**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-12-8**] 08:17 PM
   Other medications:
   Vanco, colace, hydroxazine, bicarbonate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-12-9**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 84 (79 - 93) bpm
   BP: 128/81(92) {128/81(92) - 172/118(127)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  2,070 mL
                                                                    277 mL
   PO:
                  TF:
   IVF:
                                                                    120 mL
   Blood products:
                                                                    375 mL
                                                                    277 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,070 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic,
   Diastolic), RV lift. Loud P2. II/VI systolic murmur left sternal border
   and base.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : right lateral chest more than left. Exam limited
   because patient on dialysis, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   215 K/uL
   71 mg/dL
   12.9 mg/dL
   20 mEq/L
   4.2 mEq/L
   66 mg/dL
   96 mEq/L
   135 mEq/L
   26.6 %
   4.9 K/uL
        [image002.jpg]
                            [**2184-12-9**]  12:01 AM
                            [**2184-12-9**]  03:34 AM
   WBC
   4.4
   4.9
   Hct
   22.7
   26.6
   Plt
   213
   215
   Cr
   12.6
   12.9
   Glucose
   80
   71
   Other labs: PT / PTT / INR:14.6/33.0/1.3, ALT / AST:17/33, Alk Phos / T
   Bili:636/1.5, Amylase / Lipase:35/41, Differential-Neuts:72.0 %,
   Band:1.0 %, Lymph:17.0 %, Mono:9.0 %, Eos:1.0 %, Albumin:3.2 g/dL,
   LDH:267 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:8.0 mg/dL
   ECG: ECG: RBBB as seen previously.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   RESPIRATORY DISTRESS
   ANEMIA
   CHF - DIASTOLIC, CHRONIC
   METABOLIC ACIDOSIS
   SARCOIDOSIS
   PULMONARY HYPERTENSION
   Hct has responded appropriately to transfusion. No hemodynamic
   problems. [**Name (NI) 53**] did not respond to diuresis last night. She is
   starting dialysis today.
   Continues on antibiotics.
   No endoscopy today per GI service.
   Persistent metabolic acidosis; should improve today with dialysis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2184-12-8**] 04:38 PM
   20 Gauge - [**2184-12-8**] 04:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2184-12-10 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had HD with 3L taken off
   - GI does not think EGD or colonoscopy are neccessary at this time
   - Hemolysis labs ruled out for hemolysis: T bili nl at 1.5, LDH up at
   267, Retic count up at 2.4, haptoglobin normal at 78.
   - renal recs- DDAVPx1 and HD done
   - CT chest, abd, pelvis read pending
   - D/c'd vanco. Left levo po for tx of bronchitis- seen in pulm clinic
   with this several days PTA
   - C/O planned for early in am
   - Increased nifedipine [**2-28**] HTN in pm
   - Cx NGTD
   - Kept I/O negative for the day
   - 8p Hct stable. Diet advanced to regular, renal
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Levofloxacin - [**2184-12-8**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-12-9**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-12-10**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 89 (76 - 105) bpm
   BP: 131/79(93) {105/74(85) - 175/106(121)} mmHg
   RR: 25 (19 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    867 mL
                                                                    120 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  3,450 mL
                                                                      0 mL
   Urine:
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,583 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   GEN: NAD
   HEENT: PERRL, sclera anicteric, dry MM, OP Clear
   chest:b/l ae +bibasilar crackles improved, no w/r
   heart:s1s2 rrr 4/6 systolic flow murmur throughout precordium
   abd: +well healed midline surgical scar, +PD catheter LLQ, +bs, soft,
   NT, ND, no masses.
   ext: no c/c/trace pitting edema 2+pulses.
   Labs / Radiology
   217 K/uL
   8.2 g/dL
   91 mg/dL
   9.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   41 mg/dL
   102 mEq/L
   140 mEq/L
   24.2 %
   5.1 K/uL
        [image002.jpg]
                            [**2184-12-9**]  12:01 AM
                            [**2184-12-9**]  03:34 AM
                            [**2184-12-9**]  03:36 PM
                            [**2184-12-9**]  08:21 PM
                            [**2184-12-10**]  03:59 AM
   WBC
   4.4
   4.9
   5.1
   Hct
   22.7
   26.6
   28.7
   29.1
   24.2
   Plt
   [**Telephone/Fax (3) 6487**]
   Cr
   12.6
   12.9
   9.0
   Glucose
   80
   71
   91
   Other labs: PT / PTT / INR:14.9/31.3/1.3, ALT / AST:15/30, Alk Phos / T
   Bili:628/0.8, Amylase / Lipase:35/41, Differential-Neuts:72.0 %,
   Band:1.0 %, Lymph:17.0 %, Mono:9.0 %, Eos:1.0 %, Albumin:3.2 g/dL,
   LDH:228 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   49 y.o woman with sarcoid, , angioectasia s, anemia, who presents ICU
   day #1 with fever/chills, SOB, HCT drop.
   .
   #Anemia- Hct drop from 27 to 24 this AM.  Etiology slow GIB [**2-28**]
   angioectasias, potentially worsened in the setting of uremic platelets,
   also question traumatic line placement. Hemolysis ruled out by
   hemolysis labs.
   - Follow serial Hcts Q8hr, with transfusion goal >25
   -2 large bore PIVs,
   - HD today with 1 U of PRBC
   - Active Type and Cross
   - Cont [**Hospital1 **] IV PPI
   - Guaiac Stools.
   .
   # Fever/Chills
 Afebrile overnight without leukocytosis or other signs
   of SIRS. Still being tx with Vanc/Zosyn/Levo. No culture data
   supporting infection. Peritoneal fluid negative for SBP.  Unlikely line
   new source of infection.
   - Trend wbc cont/fever curve
   - Broad spectrum abx at this time, pending cx data with
   vanco/zosyn/levo.
   .
   #SOB- Improved with HD. Pt is sating well on RA.
   - Cont Abx for now, will consider pulling off tomorrow
   - HD today with UF
   .
   # Left Back Pain -  Etiology unclear. Pt also s/p HD line placement.
   - Pain control
   - f/u with transplant surgery regarding line placement if there were
   potential line placement complications
   .
   # ESRD
  HD today
   - Continue to monitor lytes/vol status
   - Renagel
   .
   # HTN
 Holding antihypertensives
   - on losartan, lasix, nifedipine/holding.
   .
   # Epilepsy-continue home lamictal, lorazepam prn.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2184-12-8**] 04:38 PM
   20 Gauge - [**2184-12-8**] 04:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2184-12-10 11:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, GI bleed, anemia, Chronic renal
   failure.
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Dialyzed yesterday and received 2 units of PRBCs with appropriate rise
   in Hct, but Hct has dropped this AM.
   Antibiotics continue for bronchitis.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Levofloxacin - [**2184-12-8**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-12-9**] 07:40 PM
   Other medications:
   [**Last Name (LF) 1267**], [**First Name3 (LF) **]-gel, hydroxazine, Nifedipine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-12-10**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 80 (79 - 105) bpm
   BP: 140/86(99) {121/74(85) - 175/106(121)} mmHg
   RR: 21 (21 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    867 mL
                                                                    556 mL
   PO:
                                                                    540 mL
                                                                    360 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                    277 mL
                                                                    196 mL
   Total out:
                                                                  3,450 mL
                                                                      0 mL
   Urine:
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,583 mL
                                                                    556 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), II/VI systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , Diminished: At
   right base, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   217 K/uL
   91 mg/dL
   9.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   41 mg/dL
   102 mEq/L
   140 mEq/L
   24.2 %
   5.1 K/uL
        [image002.jpg]
                            [**2184-12-9**]  12:01 AM
                            [**2184-12-9**]  03:34 AM
                            [**2184-12-9**]  03:36 PM
                            [**2184-12-9**]  08:21 PM
                            [**2184-12-10**]  03:59 AM
   WBC
   4.4
   4.9
   5.1
   Hct
   22.7
   26.6
   28.7
   29.1
   24.2
   Plt
   [**Telephone/Fax (3) 6487**]
   Cr
   12.6
   12.9
   9.0
   Glucose
   80
   71
   91
   Other labs: PT / PTT / INR:14.9/31.3/1.3, ALT / AST:15/30, Alk Phos / T
   Bili:628/0.8, Amylase / Lipase:35/41, Differential-Neuts:72.0 %,
   Band:1.0 %, Lymph:17.0 %, Mono:9.0 %, Eos:1.0 %, Albumin:3.2 g/dL,
   LDH:228 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Chest CT: right basilar atelectasis.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   RESPIRATORY DISTRESS
   ACUTE BRONCHITIS
   SARCOIDOSIS
   PULMONARY HYPERTENSION
   Respiratory status improving with dialsysis. Hct down today.
   Patient to receive additional transfusion during dialysis.
   Antibiotic coverage altered; continue levofloxacin for bronchitis.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2184-12-8**] 04:38 PM
   20 Gauge - [**2184-12-8**] 04:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes